US08431597B2
(2R,4R)-1-tert-butyl 2-methyl 4-azidopiperidine-1,2-dicarboxylate
NaN3 (15.8 g, 243 mmol) was added to a solution of (2R,4S)-1-tert-butyl 2-methyl 4-(methylsulfonyloxy)piperidine-1,2-dicarboxylate (26.7 g, 81 mmol) in dry DMF (100 mL). The mixture was heated at 60° C. for 18 hours. Water (300 mL) was added to the reaction mixture and extracted with ethyl acetate/heptane (2:1) (2×200 mL). The combined organic layer was washed by brine and dried over MgSO4, filtered and concentrated under reduced pressure to give a colorless oil 22.5 g (98%). LC-MS: 285.0 (t=2.5 min).

reactant | NaN3 | 243 mmol, 15.8 g | [N-]=[N+]=[N-].[Na+]
reactant | (2R,4S)-1-tert-butyl 2-methyl 4-(methylsulfonyloxy)piperidine-1,2-dicarboxylate | 81 mmol, 26.7 g | CS(=O)(=O)O[C@@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OC | C13H23NO7S
reactant | Water | 300 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (2R,4R)-1-tert-butyl 2-methyl 4-azidopiperidine-1,2-dicarboxylate | 22.5 g, 98% | N(=[N+]=[N-])[C@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OC | C12H20N4O4
